US07777047B2
To a solution of ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4-methyl-1H-indole-2-carboxylate (2.12 g) in tetrahydrofuran (15 ml)-methanol (15 ml) was added an aqueous solution (5 ml) of 85% potassium hydroxide (1.0 g), and the mixture was stirred at room temperature for 15 hr. The reaction solution was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 7-[ethyl(2-thienylsulfonyl)amino]-4-methyl-1H-indole-2-carboxylic acid (2.0 g, yield quantitative) as a colorless amorphous solid. To a mixture of the obtained solid (2.0 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (1.0 g) and N,N-dimethylformamide (20 ml) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.3 g) under ice-cooling, and the mixture was stirred at room temperature for 2 days. The reaction solution was diluted with ethyl acetate, and washed successively with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1-3:1) to give the title compound (2.0 g, yield quantitative) as a colorless amorphous solid.

reactant | ethyl 7-[ethyl(2-thienylsulfonyl)amino]-4-methyl-1H-indole-2-carboxylate | 2.12 g | C(C)N(C=1C=CC(=C2C=C(NC12)C(=O)OCC)C)S(=O)(=O)C=1SC=CC1 | C18H20N2O4S2
reactant | methanol | 15 ml | CO | CH4O
reactant | potassium hydroxide | 5 ml, 1.0 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-[ethyl(2-thienylsulfonyl)amino]-4-methyl-1H-indole-2-carboxylic acid | 2.0 g | C(C)N(C=1C=CC(=C2C=C(NC12)C(=O)O)C)S(=O)(=O)C=1SC=CC1 | C16H16N2O4S2
